US07456164B2
4-{3-[4-(4-Cyano-tetrahydro-pyran-4-yl)-phenoxy]-propyl}-piperazine-1-carboxylic acid tert-butyl ester
4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbonitrile (200 mg, 0.99 mmol), 4-(3-chloro-propyl)-piperazine-1-carboxylic acid tert-butyl ester (203 mg, 0.76 mmol), DMF (4 ml) and K2CO3 (553 g, 4.00 mmol) was heated to 70° C. and work up according to general procedure E. The organic phase was washed with 2M NaOH (3.×20 ml), water (2×20 ml), dried over MgSO4, fitered and concentrate in vacuo at 35° C. to provided the title compound (272 mg, 64%) as an off white solid. 1H NMR (400 MHz, CDCl3), δ 7.38 (d, 2H), 6.93 (d, 2H), 4.11-4.04 (m, 2H), 4.03 (t, 2H), 3.89 (td, 2H), 3.50-3.37 (m, 4H), 2.53 (t, 2H), 2.45-2.34 (m, 4H), 2.15-2.00 (m, 4H), 1.97 (p, 2H), 1.46 (s, 9H).

reactant | 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbonitrile | 0.99 mmol, 200 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C19H26N2O2
reactant | 4-(3-chloro-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.76 mmol, 203 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCCl | C12H23ClN2O2
reactant | K2CO3 | 4.00 mmol, 553 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-{3-[4-(4-Cyano-tetrahydro-pyran-4-yl)-phenoxy]-propyl}-piperazine-1-carboxylic acid tert-butyl ester | 272 mg, 64% | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C#N | C24H35N3O4
